US06495562B1
4-ethyl-6-methoxy-1,2,3,4-tetrahydroisoquinoline
A solution of 2-(3-methoxyphenyl)-1-butanamine (25 g, 131 mmol, prepared according to the procedure described in J. Med. Chem. 1990, 33, 153-160) in formic acid (120 mL) at room temperature was treated with paraformaldehyde (4.18 g, 131 mmol), stirred for 16 hours, treated with 25% KOH (30 mL) and ethanol (100 mL), and refluxed for 2.5 hours. The mixture was cooled to room temperature, extracted with dichloromethane, and the combined extracts were dried (MgSO4), filtered, and concentrated. The concentrate was purified by flash column chromatography on silica gel with dichloromethane to provide the desired product.

reactant | 2-(3-methoxyphenyl)-1-butanamine | COC=1C=C(C=CC1)C(CN)CC | C11H17NO
reactant | paraformaldehyde | 131 mmol, 4.18 g | C=O | CH2O
reactant | KOH | 30 mL | [OH-].[K+]
reactant | ethanol | 100 mL | C(C)O | C2H6O
solvent | formic acid | 120 mL | C(=O)O | CH2O2
product | 4-ethyl-6-methoxy-1,2,3,4-tetrahydroisoquinoline | C(C)C1CNCC2=CC=C(C=C12)OC | C12H17NO
